US03989685
A mixture of benzhydryl 7β-(α-tert.-butoxycarbonylamino-α-phenylacetamido)-3β-chloro-3α-methylcepham-4α-carboxylate (150 mg), trifluoroacetic acid (4 ml), and anisole (1 ml) is stirred at room temperature for 30 minutes, then evaporated in vacuo, The residue is treated with ether to remove soluble material. The insoluble material is 7β-(α-aminophenylacetamido)- 3β-chloro-3α-methylcepham-4α-carboxylic acid trifluoroacetate. The material is mixed with water (1.5 ml) and 25% Amberlite LA-1R is methyl isobutyl ketone (1.5 ml), and stirred for 2 hours to give an insoluble material which is collected by filtration. The solid is washed with water, methyl isobutyl ketone, and ethyl acetate, and dried to give 7β-(α-aminophenylacetamido)-3β-chloro-3α-methylcepham-4α-carboxylic acid (35 mg). Yield: 40%. IR: νmaxNujol 5.8, 5.7, 5.7μ.

reactant | benzhydryl 7β-(α-tert.-butoxycarbonylamino-α-phenylacetamido)-3β-chloro-3α-methylcepham-4α-carboxylate | 150 mg | C(C)(C)(C)OC(=O)NC(C(=O)N[C@H]1[C@@H]2N([C@H]([C@](CS2)(C)Cl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C1=CC=CC=C1 | C34H36ClN3O6S
reactant | trifluoroacetic acid | 4 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | anisole | 1 ml | C1(=CC=CC=C1)OC | C7H8O
product | 7β-(α-aminophenylacetamido)-3β-chloro-3α-methylcepham-4α-carboxylic acid | 35 mg, Yield: 40% | NC(C(=O)N[C@H]1[C@@H]2N([C@H]([C@](CS2)(C)Cl)C(=O)O)C1=O)C1=CC=CC=C1 | C16H18ClN3O4S
